US09340506B2
To ethyl 2-(4-cyclopropylsulfonylphenyl)-2-(2,4-difluoroanilino)acetate (0.6 g, 1.51 mmol) was added a solution of lithium hydroxide (0.317 g, 7.22 mmol) in water (4 mL) followed by THF (4 mL) and methanol (0.5 mL) and stirred for 12 hours at 25° C. Organic solvents were evaporated from the reaction mixture and aqueous layer was acidified 1N HCl, extracted with ethyl acetate (3×15 mL), organic layer was washed with brine solution, dried over anhydrous sodium sulfate, and washed concentrated under reduced pressure to provide 2-(4-cyclopropylsulfonylphenyl)-2-(2,4-difluoroanilino)acetic acid (0.5 g).

reactant | ethyl 2-(4-cyclopropylsulfonylphenyl)-2-(2,4-difluoroanilino)acetate | 1.51 mmol, 0.6 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)OCC)NC1=C(C=C(C=C1)F)F | C19H19F2NO4S
reactant | lithium hydroxide | 7.22 mmol, 0.317 g | [OH-].[Li+]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | methanol | 0.5 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
product | 2-(4-cyclopropylsulfonylphenyl)-2-(2,4-difluoroanilino)acetic acid | 0.5 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)NC1=C(C=C(C=C1)F)F | C17H15F2NO4S
